US07622449B2
Preparation of N-(3-{4-[(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-2-(4-hydroxyphenyl)-4-oxoazetidin-1-yl]phenyl}prop-2-yn-1-yl)methanesulfonamide (Compound 6a)
Triethylamine (7 equivalents) is added to a solution of (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-hydroxyphenyl)-1-(4-iodophenyl)azetidin-2-one (i-6) (1.00 equivalent), N-prop-2-yn-1-ylmethanesulfonamide (i-5) (1.50 equivalents), tetrakistriphenylphosphine palladium(0) (0.15 equivalents) and copper(I) iodide (0.30 equivalents) in DMF (0.1 M concentration with respect to final product) under a nitrogen atmosphere and the resulting solution aged at room temperature. After completion of reaction, the volatiles are evaporated in vacuo and the crude residue can be purified by flash chromatography on silica gel to afford the title compound.

reactant | Triethylamine | 7 equivalents | C(C)N(CC)CC | C6H15N
reactant | (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-hydroxyphenyl)-1-(4-iodophenyl)azetidin-2-one | 1.00 equivalent | FC1=CC=C(C=C1)[C@H](CC[C@H]1C(N([C@@H]1C1=CC=C(C=C1)O)C1=CC=C(C=C1)I)=O)O | C24H21FINO3
reactant | N-prop-2-yn-1-ylmethanesulfonamide | 1.50 equivalents | C(C#C)NS(=O)(=O)C | C4H7NO2S
solvent | DMF | 0.1 M | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 0.30 equivalents | [Cu]I
product | N-(3-{4-[(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-2-(4-hydroxyphenyl)-4-oxoazetidin-1-yl]phenyl}prop-2-yn-1-yl)methanesulfonamide | FC1=CC=C(C=C1)[C@H](CC[C@@H]1[C@H](N(C1=O)C1=CC=C(C=C1)C#CCNS(=O)(=O)C)C1=CC=C(C=C1)O)O | C28H27FN2O5S
